US04644075
A solution of prolinol complex 10 (779 mg, 4.0 mmol) in THF (20 mL) was oxidized as above with ethylene glycol (0.44 mL, 7.9 mmol), 2M methanolic sodium hydroxide (12 mL, 24 mmol) and 30% H2O2 (2 mL, 20 mmol). Ether (50 mL) was added and the solution was washed with brine (2×10 mL). The aqueous phase was extracted with ether (2×10 mL). The combined organic layers were dried (K2CO3) and evaporated. Chromatography (ethyl acetate) of the residue afforded (R,R)-2,5-dihydroxyhexane (356 mg, 75% yield). The idol was acetylated with acetic anhdride (1.5 mL) and DMAP (30 mg) at 20° C. for 12 h. Standard workup followed by chromatography (ethylacetate/hexane, 1:9) gave (R,R)-2,5-diacetoxyhexane (482 mg, 80% yield). Bulb-to-bulb distillation gave pure diacetate.

reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
catalyst | DMAP | 30 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R,R)-2,5-diacetoxyhexane | 482 mg, 80% yield | C(C)(=O)O[C@H](C)CC[C@@H](C)OC(C)=O | C10H18O4
